US05021435
2-Mercaptoundecanoic acid (7 g, 32.1 mmol), nicotinaldehyde (3.03 ml, 32.1 mmol), and ethanolamine (1.93 ml, 32.1 mmol) were added to toluene (100 ml) and subjected to azeotropic dehydration for 1 hour. The product mixture was cooled and evaporated under reduced pressure to remove the solvent. The residue was purified by column chromatography, giving 3-(2-hydroxyethyl)-5-(n-nonyl)-2-(3-pyridyl)thiazolidin-4-one (8.17 g, 73% yield).

reactant | 2-Mercaptoundecanoic acid | 32.1 mmol, 7 g | SC(C(=O)O)CCCCCCCCC | C11H22O2S
reactant | nicotinaldehyde | 32.1 mmol, 3.03 ml | C(C1=CN=CC=C1)=O | C6H5NO
reactant | ethanolamine | 32.1 mmol, 1.93 ml | C(O)CN | C2H7NO
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(2-hydroxyethyl)-5-(n-nonyl)-2-(3-pyridyl)thiazolidin-4-one | 8.17 g, 73% yield | OCCN1C(SC(C1=O)CCCCCCCCC)C=1C=NC=CC1 | C19H30N2O2S
